US05071999
a) Ethyl 9,9-dimethyl-10-thia-1,4-diazatricyclo -[6.3.0.02,6 ]-undecane-4-carboxylate
8.6 g (50 mmol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate are heated under reflux overnight with 8.1 g (50 mmol) of 5,5-dimethylthiazolidine-4-carboxylic acid in 200 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 50 mmol, 8.6 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | 5,5-dimethylthiazolidine-4-carboxylic acid | 50 mmol, 8.1 g | CC1(C(NCS1)C(=O)O)C | C6H11NO2S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 9,9-dimethyl-10-thia-1,4-diazatricyclo -[6.3.0.02,6 ]-undecane-4-carboxylate | CC1(C2CC3CN(CC3N2CS1)C(=O)OCC)C | C13H22N2O2S
